US06521658B1
1-methyl-5-nitro-1H-indole-3-sulfonyl chloride
A solution of chlorosulfonic acid (1.9 mL, 28 mmol) and Na2SO4 (403 mg, 2.8 mmol) in dichloromethane (17 mL) was treated with a solution of 1-methyl-5-nitro-1H-indole (500 mg, 2.8 mmol) in dichloromethane (11 mL) over 1 hour, stirred for 30 minutes, and decanted to provide a thick brown oil. The oil was slowly treated with water (20 mL), stirred for 10 minutes, and filtered. The filtrate was dried in a vacuum oven to provide 80 mg of the desired compound which was used in the next step without further purification.

reactant | chlorosulfonic acid | 28 mmol, 1.9 mL | ClS(=O)(=O)O | ClHO3S
reactant | Na2SO4 | 2.8 mmol, 403 mg | [O-]S(=O)(=O)[O-].[Na+].[Na+]
reactant | 1-methyl-5-nitro-1H-indole | 2.8 mmol, 500 mg | CN1C=CC2=CC(=CC=C12)[N+](=O)[O-] | C9H8N2O2
reactant | water | 20 mL | O | H2O
solvent | dichloromethane | 17 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 11 mL | ClCCl | CH2Cl2
product | 1-methyl-5-nitro-1H-indole-3-sulfonyl chloride | 80 mg | CN1C=C(C2=CC(=CC=C12)[N+](=O)[O-])S(=O)(=O)Cl | C9H7ClN2O4S
